US08003806B2
3-[1,1′-Biphenyl]-4-yl-3-{5-[(phenylsulfonyl)amino]-1H-benzimidazol-1-yl}propanoic acid
A solution of methyl 3-(1,1′-biphenyl)-4-yl-3-{5-[(phenylsulfonyl)amino]-1H-benzimidazol-1-yl}propanoate (12 mg, 23 μmol) in hydrochloric acid (10 mL of a 5N solution) was stirred at room temperature for 120 hours. The solution was evaporated in vacuo to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=5.04 min, MH+ 498].

reactant | methyl 3-(1,1′-biphenyl)-4-yl-3-{5-[(phenylsulfonyl)amino]-1H-benzimidazol-1-yl}propanoate | 23 μmol, 12 mg | C1(=CC=C(C=C1)C(CC(=O)OC)N1C=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=CC=C2)C2=CC=CC=C2 | C29H25N3O4S
solvent | hydrochloric acid | Cl | ClH
product | 3-[1,1′-Biphenyl]-4-yl-3-{5-[(phenylsulfonyl)amino]-1H-benzimidazol-1-yl}propanoic acid | C1(=CC=C(C=C1)C(CC(=O)O)N1C=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=CC=C2)C2=CC=CC=C2 | C28H23N3O4S
